US07125901B2
A mixture of di-tert-butyl{[(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}benzyl)amino]methylidene}biscarbamate (20 mg), dichloromethane (2 drops) and 4N hydrogen chloride in 1,4-dioxane (0.5 ml) was stirred for 15 hours. The precipitated crystals were filtered and washed with 1,4-dioxane to give N-(4-{2-[4-({[amino(imino)methyl]amino}methyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide hydrochloride (13 mg).

reactant | di-tert-butyl{[(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}benzyl)amino]methylidene}biscarbamate | 20 mg | C(C)(C)(C)OC(NC(NC(OC(C)(C)C)=O)NCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O)=O | C25H37N5O5S
reactant | hydrogen chloride | 4N | Cl | ClH
catalyst | dichloromethane | 2 drops | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | N-(4-{2-[4-({[amino(imino)methyl]amino}methyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide hydrochloride | 13 mg | Cl.NC(=N)NCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | InChI=1S/C15H19N5OS.ClH/c1-10(21)19-15-20-13(9-22-15)7-6-11-2-4-12(5-3-11)8-18-14(16)17;/h2-5,9H,6-8H2,1H3,(H4,16,17,18)(H,19,20,21);1H
